US07994185B2
Step B: N-{3-[2-(1-Methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-3-pyridinesulfonamide
Following a procedure analogous to the procedure described in Example 1 using 2-aminoethyl-methyl-sulfone (391 mg, 3.18 mmol) and N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-pyridinesulfonamide (150 mg, 0.318 mmol) the title compound was obtained as a white foam (72 mg, 41% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.60 (s, 1H) 8.84 (d, J=1.8 Hz, 1H) 8.76 (dd, J=4.8, 1.3 Hz, 1H) 8.02-8.13 (m, 2H) 7.58 (dd, J=7.9, 4.8 Hz, 1H) 7.46 (t, J=5.3 Hz, 1H) 7.32 (t, J=8.2 Hz, 1H) 7.12-7.27 (m, 3H) 5.98-6.16 (m, 1H) 3.64 (dd, J=2.4, 1.3 Hz, 2H) 3.31-3.37 (m, 2H) 3.16-3.29 (m, 1H) 2.99 (s, 3H) 1.33 (d, J=6.9 Hz, 6H). MS (ESI): 559.0 [M+H]+.

reactant | 2-aminoethyl-methyl-sulfone | 3.18 mmol, 391 mg | NCCS(=O)(=O)C | C3H9NO2S
reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]phenyl}-3-pyridinesulfonamide | 0.318 mmol, 150 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1 | C21H18ClN5O2S2
product | N-{3-[2-(1-Methylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-3-pyridinesulfonamide | CC(C)C=1SC(=C(N1)C=1C=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1)C1=NC(=NC=C1)NCCS(=O)(=O)C | C24H26N6O4S3
